US06060488
6-Methoxy-2-(4-Methoxyphenyl)-3-(4-[(1-Hexylpiperidin-3-yl)methoxy]benzoyl)benzo[b]thiophene
6-Methoxy-2-(4-methoxyphenyl)-3-(4-hydroxybenzoyl)benzo[b]thiophene (1.17 g, 3.00 mmol), 1-hexyl-3-piperidine methanol (1.69 g, 6.00 mmol), triphenylphosphine (1.57 g, 6.00 mmol), and DEAD (6.0 mmol) were converted to product by the procedure of Example 1 to give 1.41 g of the title compound. Yield: 82%. MS(FD) 572(M+). EA calculated for C35H41NO4S: C, 73.52; H, 7.23; N, 2.45. Found: C, 73.25; H, 7.08; N, 2.71.

reactant | 6-Methoxy-2-(4-methoxyphenyl)-3-(4-hydroxybenzoyl)benzo[b]thiophene | 3.00 mmol, 1.17 g | COC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)O)=O)C2=CC=C(C=C2)OC)C1 | C23H18O4S
reactant | 1-hexyl-3-piperidine methanol | 6.00 mmol, 1.69 g | C(CCCCC)N1CC(CCC1)CO | C12H25NO
reactant | triphenylphosphine | 6.00 mmol, 1.57 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 6.0 mmol | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | 6-Methoxy-2-(4-Methoxyphenyl)-3-(4-[(1-Hexylpiperidin-3-yl)methoxy]benzoyl)benzo[b]thiophene | 1.41 g, Yield: 82% | COC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCC2CN(CCC2)CCCCCC)=O)C2=CC=C(C=C2)OC)C1 | C35H41NO4S
